US06579878B1
Thionyl chloride (1 mL) was added to ethyl 2-((3-pyridyl)hydroxymethyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate (100 mg, 0.362 mmol) and the mixture was refluxed for 2 h and cooled. The excess thionyl chloride was removed under vacuum to give ethyl 2-((3-pyridyl)chloromethyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate, which was dissolved in 30 ml of water:ethanol (1:1 v/v volume) and treated with wet Raney nickel (0.5 g) under a nitrogen atmosphere. The suspension was shaken under 50 psi of hydrogen in a Parr hydrogenation apparatus for 24 h and filtered through a pad of celite. The celite was washed with ethanol (50 mL) and the combined ethanol solutions were concentrated by rotary evaporation. The remaining aqueous solution was extracted with chloroform (3×50 mL). The combined chloroform extracts were dried over anhydrous potassium carbonate, filtered, and rotary evaporated. The residue was chromatographed on a Merck silica gel 60 (70-230 mesh) column, with chloroform:methanol (95:5) as eluant. This afforded ethyl 2-((3-pyridyl)methyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate (90 mg, 96%).

reactant | Thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 2-((3-pyridyl)hydroxymethyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate | 0.362 mmol, 100 mg | N1=CC(=CC=C1)C(C1C2CCC(C1)N2C(=O)OCC)O | C15H20N2O3
product | ethyl 2-((3-pyridyl)chloromethyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate | N1=CC(=CC=C1)C(C1C2CCC(C1)N2C(=O)OCC)Cl | C15H19ClN2O2
